US07820670B2
Step A: 1-(3-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)propyl)pyrrolidin-2-one
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 1-(3-aminopropyl)pyrrolidin-2-one according to general procedure 1 providing the intermediate (150 mg, 58%) as a white solid; Rf=0.58 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.55 (d, J=9.7 Hz, 1H), 7.39 (s, 1H), 6.68 (d, J=9.7 Hz, 1H), 3.53 (t, J=7.1 Hz, 2H), 3.43-3.38 (m, 4H), 2.39 (t, J=8.0 Hz, 2H), 2.08 (quin, J=7.6 Hz, 2H), 1.94 (quin, J=6.9 Hz, 2H); ES-MS: (M+H)=338, 340 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 1-(3-aminopropyl)pyrrolidin-2-one | NCCCN1C(CCC1)=O | C7H14N2O
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 1-(3-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)propyl)pyrrolidin-2-one | BrC1=CN=C2N1N=C(C=C2)NCCCN2C(CCC2)=O | C13H16BrN5O
